US07838499B2
Preparation of 2-(4-(2-chloro-5-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)tetrahydro-2H-pyran-2-yl)benzyl)phenyl)ethanol (Intermediate BL)
(2S,3S,4R,5R,6R)-2-(3-(4-(2-(allyloxy)ethyl)benzyl)-4-chlorophenyl)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)tetrahydro-2H-pyran (intermediate BK) (50 mg, 0.061 mmol) was taken up in 90% aqueous acetic acid (1 mL), and sodium acetate (30.4 mg, 0.37 mmol) was added, followed by palladium (II) chloride (27.4 mg, 0.154 mmol). The mixture was heated at 70° C. for 5 h. Solvent was evaporated and the residue was taken up in 2 mL DCM and the mixture was filtered through a short Celite® pad. The pad was washed with a copious amount of DCM until all material had eluted. After evaporation of solvent, the residue was purified by TLC using 4:1 hexane:EtOAc to obtain intermediate BL (20 mg, yield 42%). LC-ESI-MS (m/z): 770 (M+H), 791 (M+H+Na).

reactant | (2S,3S,4R,5R,6R)-2-(3-(4-(2-(allyloxy)ethyl)benzyl)-4-chlorophenyl)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)tetrahydro-2H-pyran | 0.061 mmol, 50 mg | C(C=C)OCCC1=CC=C(CC=2C=C(C=CC2Cl)[C@@H]2O[C@@H]([C@H]([C@@H]([C@H]2OCC2=CC=CC=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)COCC2=CC=CC=C2)C=C1 | C52H53ClO6
reactant | sodium acetate | 0.37 mmol, 30.4 mg | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
catalyst | palladium (II) chloride | 0.154 mmol, 27.4 mg | [Pd](Cl)Cl
product | 2-(4-(2-chloro-5-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)tetrahydro-2H-pyran-2-yl)benzyl)phenyl)ethanol | yield 42% | ClC1=C(CC2=CC=C(C=C2)CCO)C=C(C=C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C49H49ClO6
